US08541429B2
8-[4-(4-methyl-piperazin-1-yl)-phenylamino]-1,4,4-trimethyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylic acid potassium salt [B10-X00-M03(C01)-D02]
To a suspension of ethyl 8-[4-(4-methyl-piperazin-1-yl)-phenylamino]-1,4,4-trimethyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate (11.60 g, 24.390 mmol) in anhydrous ethanol (450 mL), 1.5 M potassium hydroxide in 95% ethanol (63 mL) was added under good stirring and the mixture was heated to reflux for 3 hours. After cooling in an ice bath, a solid was formed, that was filtered washing with ethanol, dried at 40° C. under vacuum to yield 11.8 g (quantitative yield) of white solid title compound.

reactant | ethyl 8-[4-(4-methyl-piperazin-1-yl)-phenylamino]-1,4,4-trimethyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate | 24.390 mmol, 11.60 g | CN1CCN(CC1)C1=CC=C(C=C1)NC1=NC=2C3=C(C(CC2C=N1)(C)C)C(=NN3C)C(=O)OCC | C26H33N7O2
reactant | potassium hydroxide | 1.5 M | [OH-].[K+]
solvent | ethanol | 450 mL | C(C)O | C2H6O
solvent | ethanol | 63 mL | C(C)O | C2H6O
product | 8-[4-(4-methyl-piperazin-1-yl)-phenylamino]-1,4,4-trimethyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylic acid potassium salt | [K+].CN1CCN(CC1)C1=CC=C(C=C1)NC1=NC=2C3=C(C(CC2C=N1)(C)C)C(=NN3C)C(=O)[O-] | InChI=1S/C24H29N7O2.K/c1-24(2)13-15-14-25-23(27-19(15)21-18(24)20(22(32)33)28-30(21)4)26-16-5-7-17(8-6-16)31-11-9-29(3)10-12-31;/h5-8,14H,9-13H2,1-4H3,(H,32,33)(H,25,26,27);/q;+1/p-1
